US07572808B2
Preparation of 3-((7-(4-chlorophenyl)-3-oxo-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-2(3H)-yl)methyl)-2-methyl-6-(trifluoromethyl)pyridine 1-oxide
The title compound was also prepared from 8-bromo-7-(4-chlorophenyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one by treatment with 3-(bromomethyl)-2-methyl-6-(trifluoromethyl)pyridine 1-oxide and potassium carbonate in N,N-dimethylformamide at 70° C., followed by treatment with 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine and aqueous potassium carbonate solution in toluene under (Ph3P)4Pd catalysis at 100° C.

reactant | 8-bromo-7-(4-chlorophenyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | BrC=1C=2N(C=CC1C1=CC=C(C=C1)Cl)C(NN2)=O | C12H7BrClN3O
reactant | 3-(bromomethyl)-2-methyl-6-(trifluoromethyl)pyridine 1-oxide | BrCC=1C(=[N+](C(=CC1)C(F)(F)F)[O-])C | C8H7BrF3NO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 3-((7-(4-chlorophenyl)-3-oxo-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-2(3H)-yl)methyl)-2-methyl-6-(trifluoromethyl)pyridine 1-oxide | ClC1=CC=C(C=C1)C1=C(C=2N(C=C1)C(N(N2)CC=2C(=[N+](C(=CC2)C(F)(F)F)[O-])C)=O)C2=CC=NC=C2 | C25H17ClF3N5O2
